US07951819B2
3-tert-butyl-N-(3-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-7-yloxy)phenyl)benzamide (CJS 3902)
Method H was used Method H was used with 7-(3-Aminophenoxy)-1H-imidazo[4,5-b]pyridin-2(3H)-one and 3-tert-butylbenzoyl chloride to afford the title compound as a light pink solid (90 mg, 54%). 1H-NMR (δ, ppm, DMSO-d6): 1.32 (s, 9H, tBu), 6.49 (d, 1H, HPy,5, J=5.9 Hz), 6.91 (d, 1H, Harom, J=6.7 Hz), 7.41-7.46 (m, 2H, Harom), 7.62-7.66 (m, 3H, Harom), 7.75 (d, 1H, Harom, J=7.6 Hz), 7.81 (d, 1H, HPy,6, J=5.9 Hz), 7.89 (s, 1H, Harom,), 10.35 (s, 1H, NHamide), 11.26 (s, 1H, NHurea), 11.44 (s, 1H, NHurea). 13C-NMR (δ, ppm, DMSO-d6): 30.98 (C(CH3)3), 34.55 (C(CH3)3), 106.41, 110.83, 113.60, 114.40, 116.31, 124.30, 124.78, 128.09, 128.67, 130.11, 134.42, 140.84, 141.31, 144.67, 147.06, 150.90, 154.17, 154.58, 166.06. HRMS (EI): m/z [M+H] calculated for C23H22N4O3: 403.1765; found: 403.1762.

reactant | 7-(3-Aminophenoxy)-1H-imidazo[4,5-b]pyridin-2(3H)-one | NC=1C=C(OC2=C3C(=NC=C2)NC(N3)=O)C=CC1 | C12H10N4O2
reactant | 3-tert-butylbenzoyl chloride | C(C)(C)(C)C=1C=C(C(=O)Cl)C=CC1 | C11H13ClO
product | 3-tert-butyl-N-(3-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-7-yloxy)phenyl)benzamide | 90 mg, 54% | C(C)(C)(C)C=1C=C(C(=O)NC2=CC(=CC=C2)OC2=C3C(=NC=C2)NC(N3)=O)C=CC1 | C23H22N4O3
